Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
pMIBI:
IMPRESSION:
1. Patient motion during acquisition reduces accuracy in the
current study.
2. Small anterior and inferior fixed defect, likely artifactual.
No evidence of
reversibility.
3. Reduced ejection fraction (40-46%), likely explained by the
focal
anteroseptal hypokinesis.
4. Normal left ventricular cavity size

attach
 
Pertinent Results:
ADMISSION LABS:
---------------
___ 04:05PM BLOOD WBC-6.9 RBC-3.95* Hgb-12.7* Hct-38.9* 
MCV-99* MCH-32.2* MCHC-32.6 RDW-12.7 RDWSD-45.6 Plt ___
___ 04:05PM BLOOD ___ PTT-32.8 ___
___ 04:05PM BLOOD Glucose-88 UreaN-24* Creat-0.9 Na-146 
K-4.1 Cl-105 HCO3-27 AnGap-14
___ 05:53AM BLOOD Calcium-9.3 Phos-2.6* Mg-2.0

STRESS TEST:
IMPRESSION:
1. Patient motion during acquisition reduces accuracy in the 
current study.
2. Small anterior and inferior fixed defect, likely artifactual. 
No evidence of
reversibility.
3. Reduced ejection fraction (40-46%), likely explained by the 
focal
anteroseptal hypokinesis.
4. Normal left ventricular cavity size.

DISCHARGE LABS:
--------------
CBC/BMP
___ 07:24AM BLOOD WBC-7.9 RBC-4.02* Hgb-12.9* Hct-38.7* 
MCV-96 MCH-32.1* MCHC-33.3 RDW-12.8 RDWSD-44.3 Plt ___
___ 07:24AM BLOOD Glucose-93 UreaN-34* Creat-1.0 Na-141 
K-4.5 Cl-103 HCO3-21* AnGap-17
___ 07:24AM BLOOD Calcium-9.1 Phos-2.9 Mg-2.1
 
Brief Hospital Course:
Patient Summary:
----------------
Mr. ___ is a ___ year old man with HTN, HLD, and CAD s/p CABG 
(LIMA-LAD, SVG-OM1, SVG-OM2 in ___ s/p NSTEMI in ___ and ___ 
(SVG occlusion x 2), s/p STEMI in ___ (s/p ___ 2 to LM-LCx) 
who presented with 1 hour of chest pain without troponin 
elevation or ischemic ECG changes, consistent with unstable 
angina. He underwent pMIBI that showed small anterior and 
inferior fixed defect with no reversibility (likely caused 
decreased EF of 40-46%). 

Transitional Issues:
--------------------
[ ] Stopped chlorthalidone in anticipation of cardiac cath, but 
did not resume given lower pressures. Consider in outpt setting 
if needs. Continued lisinopril for HF benefits
[ ] Increased imdur to 60mg QD for pain - make sure his 
pressures tolerate this  

ACUTE ISSUES:
------------
# Unstable angina
# CAD s/p CABG
Patient with CAD and history of CABG (LIMA-LAD, SVG-OM1, SVG-OM2
in ___ s/p NSTEMI in ___ and ___ (SVG occlusion x 2), s/p STEMI
in ___ s/p ___ 2 to LM-LCx. He presented with an episode of
substernal chest pain which resolved with nitroglycerin SL.
Troponin negative x2 and no ECG findings for new ischemia.
Consistent with unstable angina. Receiving aspirin, plavix,
atorvastatin, metoprolol and lisinopril. Repeat TTE with mild to
mod global LV dysfunction. Did not have any CP episodes over
weekend and spoke with primary cardiology team who agrees pMIBI
is best test for him. Held lisinopril and chlorthalidone in 
anticipation of potential cardiac cath, only restarted 
lisinopril d/t lower pressures. Stress showed an 
anterior/inferior defect without reversibility, likely 
explaining the decreased EF. 
Tx:
- increased home imdur to 60mg QD 
- continue home metoprolol 12.5 mg PO daily
- continue home ASA 81 and Plavix
- continue home atorvastatin 80 mg PO daily
- restarted lisinopril 2.5mg given BPS; holding chlorthalidone 

CHRONIC ISSUES:
===============
# PAD
- continue home ASA, atorva as above

# HTN
- continue home metoprolol; increased home imdur for CP
- restarted home lisinopril 2.5mg QD 
- holding home chlorthalidone

# HLD
- continue home atorvastatin

CORE MEASURES:  
==============  
# FEN: IVF PRN | Replete electrolytes PRN | Heart healthy diet  
# ACCESS: PIV's  
# PROPHYLAXIS:  
- DVT with Heparin SC BID  
- Pain management with Tylenol  
- Bowel regimen with Senna/Miralax
# LANGUAGE: ___
# CODE:  full (presumed)
# CONTACT: ___ (daughter) ___
# DISPO: ___, pending above  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 12.5 mg PO DAILY 
2. Clopidogrel 75 mg PO DAILY 
3. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Atorvastatin 80 mg PO QPM 
6. Lisinopril 2.5 mg PO DAILY 
7. Chlorthalidone 25 mg PO DAILY 

 
Discharge Medications:
1.  Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  Clopidogrel 75 mg PO DAILY  
5.  Lisinopril 2.5 mg PO DAILY  
6.  Metoprolol Succinate XL 12.5 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
Unstable angina 

SECONDARY:
CAD s/p CABG 
HTN
HLD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because you were having chest pain

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
-  You were admitted to the hospital and monitored very closely 
and you did not have any more chest pain
- You had a stress test which showed no areas of heart muscle 
that could be intervened on with a cardiac catheter. It did show 
that one area was slower or weaker, but this appears to be old. 

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Be sure to take all your medications and attend all of your 
appointments listed below. Please call your doctor or return to 
the ED if chest pain returns 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Team
 
Followup Instructions:
___